US03963777
1 g of 5-chloro-2-{[(2,2-dimethyl-1,3-dioxolan-4-yl)-methyl]-amino}-2'-fluorobenzophenone are dissolved in 25 ml of absolute carbon tetrachloride, treated with 1.5 g of glycyl chloride hydrochloride and stirred for 1 hour at 25°C. Then the solvent is completely distilled off on a rotary evaporator and the residue is stirred with 25 ml of 3 N hydrochloric acid for 30 minutes. Subsequently the aqueous acidic solution is extracted with ether, made alkaline with 3 N sodium hydroxide or ammonia and extracted with ethyl acetate. The ethyl acetate phase is washed with water, dried over magnesium sulfate, filtered and evaporated. By chromatography on silica gel with ethyl acetate/methanol (9:1) there is isolated from the residue pure 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one of melting point 116°-117°C. The compounds resulting as intermediates in the reaction 2-amino-4'-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)-methyl]-2' -(2-fluorobenzoyl)-acetanilide and 2-amino-4'-chloro-N-(2,3-dihydroxypropyl)-2'-(2-fluorobenzoyl)-acetanilide are not isolated.

reactant | 5-chloro-2-{[(2,2-dimethyl-1,3-dioxolan-4-yl)-methyl]-amino}-2'-fluorobenzophenone | 1 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)NCC1OC(OC1)(C)C | C19H19ClFNO3
reactant | glycyl chloride hydrochloride | 1.5 g | Cl.NCC(=O)Cl
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(CO)O)=O)C2=C(C=CC=C2)F)C1 | C18H16ClFN2O3
